US09169261B2
Synthesis of 1-(o-tolyl)-1,2,4-triazole-3-carboxylic acid
To a solution of ethyl 1-(o-tolyl)-1,2,4-triazole-3-carboxylate (400 mg, 1.7 mmol) in 3 mL THF was added 4 M LiOH (2 mL, 8 mmol) followed by 3 mL of MeOH. The reaction mixture was stirred at 50° C. for 5 minutes, after which the pH was adjusted to 4 with the addition of conc. HCl. After extraction, drying (MgSO4), filtration and drying under reduced pressure, 43 mg of residue was recovered (12%) and used in the subsequent step without further purification.

reactant | ethyl 1-(o-tolyl)-1,2,4-triazole-3-carboxylate | 1.7 mmol, 400 mg | C1(=C(C=CC=C1)N1N=C(N=C1)C(=O)OCC)C | C12H13N3O2
reactant | LiOH | 8 mmol, 4 M, 2 mL | [Li+].[OH-]
reactant | MeOH | 3 mL | CO | CH4O
reactant | HCl | Cl | ClH
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | 1-(o-tolyl)-1,2,4-triazole-3-carboxylic acid | C1(=C(C=CC=C1)N1N=C(N=C1)C(=O)O)C | C10H9N3O2
